* C:\Users\Regan\OneDrive\Documents\GitHub\Team7\310\wave generator.asc
R3 SW N001 22k
R2 N001 N003 10k
R1 N002 SW 10k
C1 N003 N002 330p
V1 5V 0 5
R6 5V 2.5V 2k
R7 2.5V 0 2k
R8 5V SW 100k
Q1 N005 N006 N007 0 BC547B
Q2 5V SW N006 0 BC547B
D1 5V N005 KA3529
R9 5V N004 100k
R10 N004 0 100k
R11 N007 0 160
XU2 2.5V N002 5V 0 N003 TLC081
XU1 N001 2.5V 5V 0 SW TLC081
.model D D
.lib C:\Users\Regan\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Regan\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m
.include KA3529.txt
.include TLC081.mod
.backanno
.end
